US03987047
1,2,4,5 -Tetrahydro-11-methyl-3-azepino[4,5-b]quinoline-carboxylic acid ethyl ester
0.5 gm (1.7 millimols) of 3-benzyl-1,2,4,5-tetrahydro-11-methyl-3H-azepino[4,5-b]quinoline were reacted in 5 ml of methylene chloride with a stoichiometric quantity (0.15 ml) of ethyl chloroformate for four hours at room temperature. After distilling off the methylene chloride and recrystallizing the residue from ether, the product was obtained with a yield of 52% of theory; m.p. 125° C.

reactant | 3-benzyl-1,2,4,5-tetrahydro-11-methyl-3H-azepino[4,5-b]quinoline | 1.7 millimols, 0.5 gm | C(C1=CC=CC=C1)N1CCC2=NC=3C=CC=CC3C(=C2CC1)C | C21H22N2
reactant | ethyl chloroformate | 0.15 ml | ClC(=O)OCC | C3H5ClO2
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
product | 1,2,4,5 -Tetrahydro-11-methyl-3-azepino[4,5-b]quinoline-carboxylic acid ethyl ester | yield of 52% | C(C)OC(=O)N1CCC2=NC=3C=CC=CC3C(=C2CC1)C | C17H20N2O2
